US07378410B2
f) Preparation of (E)-(2R,3R,4S,5R)-3,4,5-trihydroxy-2-methoxy-8,8-dimethyl-non-6-enoic acid [(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-amide
Following the procedure of Example 1 m) except (R)-N-[(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-2-[(4R,5R,6R)-6-((E)3,3-dimethyl-but-1-enyl)-5-hydroxy-2,2-dimethyl-[1,3]dioxan-4-yl]-2-methoxy-acetamide is substituted for tetradecanoic acid (3R,6S-6-{(R)-2-[(4R,5R,6R)-6-((E)-3,3-dimethyl-but-1-enyl)-5-hydroxy-2,2-dimethyl-[1,3]dioxan-4-yl]-2-methoxy-acetylamino}-7-oxo-1-pyridin-3-ylmethyl-azepan-3-yl ester. MS (ESI) 528.0 (M+H)+

reactant | (R)-N-[(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-2-[(4R,5R,6R)-6-((E)3,3-dimethyl-but-1-enyl)-5-hydroxy-2,2-dimethyl-[1,3]dioxan-4-yl]-2-methoxy-acetamide | N(=[N+]=[N-])CCCCCCO[C@@H]1CC[C@@H](C(N(C1)C)=O)NC([C@H](OC)[C@@H]1OC(O[C@@H]([C@H]1O)\C=C\C(C)(C)C)(C)C)=O | C28H49N5O7
reactant | tetradecanoic acid | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
product | (E)-(2R,3R,4S,5R)-3,4,5-trihydroxy-2-methoxy-8,8-dimethyl-non-6-enoic acid [(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-amide | N(=[N+]=[N-])CCCCCCO[C@@H]1CC[C@@H](C(N(C1)C)=O)NC([C@@H]([C@@H]([C@H]([C@@H](\C=C\C(C)(C)C)O)O)O)OC)=O | C25H45N5O7
